US08017792B2
Synthesis of 1-bromo-3-(4-ethoxybenzyl)-6-methoxy-4-methylbenzene
Then, the title compound (5.80 g) was synthesized from 5-bromo-4-methoxy-2-methylbenzoic acid (4.93 g, 0.0201 mol) and phenetole by a similar method as in Preparation Example 14.

reactant | 5-bromo-4-methoxy-2-methylbenzoic acid | 0.0201 mol, 4.93 g | BrC=1C(=CC(=C(C(=O)O)C1)C)OC | C9H9BrO3
reactant | phenetole | C1(=CC=CC=C1)OCC | C8H10O
product | 1-bromo-3-(4-ethoxybenzyl)-6-methoxy-4-methylbenzene | 5.80 g | BrC1=CC(=C(C=C1OC)C)CC1=CC=C(C=C1)OCC | C17H19BrO2
